US07476399B2
3-(2-Methoxy-phenyl)-N-(1-propyl-butyl)-acrylamide
Prepared in a similar manner as described in example 4 from 3-(2-methoxy-phenyl)-acrylic acid and 4-heptylamine. MS (M+H, 276.2).

reactant | 3-(2-methoxy-phenyl)-acrylic acid | COC1=C(C=CC=C1)C=CC(=O)O | C10H10O3
reactant | 4-heptylamine | CCCC(CCC)N | C7H17N
product | 3-(2-Methoxy-phenyl)-N-(1-propyl-butyl)-acrylamide | COC1=C(C=CC=C1)C=CC(=O)NC(CCC)CCC | C17H25NO2
